### ISSUE TITLE
Suggest `rw` when `simp_rw` when all rewrites could be plain `rw`

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#50]
Detect when `simp_rw` closes the same goals as `rw` and suggest using plain `rw` instead.

For example, detect:

```
example (a b c : ℕ) (h₁ : a = b) (h₂ : b = c) : a + a = c + c := by
  simp_rw [h₁, h₂]
```

And suggest:

```
example (a b c : ℕ) (h₁ : a = b) (h₂ : b = c) : a + a = c + c := by
  simp_rw [h₁, h₂]
```

Originally suggested by @SnirBroshi
